US05466706
N,9-dimethyl-2-(4-methylphenyl)-9H-imidazo[1,2-a]benzimidazole-3-acetamide.
A suspension of 1.9 g (0.006 mol) of 9-methyl-2-(4-methylphenyl)-9H-imidazo[1,2-a]benzimidazole-3-acetic acid is prepared in 50 ml of dry tetrahydrofuran, 1.45 g (0.009 mol) of N,N'-carbonyldiimidazole are added, in small portions, under an inert atmosphere and the mixture is stirred at room temperature for 2 h. The mixture is cooled in an ice-cold water bath, and treated with an excess of dry methylamine. Stirring is maintained for 16 h at room temperature. The solvent is evaporated under reduced pressure, and the residue is taken up in water, separated by filtration, washed with water, dried under vacuum and purified by recrystallization from methanol. 1 g of compound is obtained. Melting point: 251°-252° C.

reactant | 9-methyl-2-(4-methylphenyl)-9H-imidazo[1,2-a]benzimidazole-3-acetic acid | 0.006 mol, 1.9 g | CN1C=2N(C3=C1C=CC=C3)C(=C(N2)C2=CC=C(C=C2)C)CC(=O)O | C19H17N3O2
reactant | methylamine | CN | CH5N
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | N,9-dimethyl-2-(4-methylphenyl)-9H-imidazo[1,2-a]benzimidazole-3-acetamide | 1 g | CNC(CC1=C(N=C2N(C3=C(N21)C=CC=C3)C)C3=CC=C(C=C3)C)=O | C20H20N4O
